US07442716B2
To a solution of 13 g of 2-(9-bromo-6-chloro-1H-phenanthro[9,10-d]imidazol-2-yl)isophthalonitrile in 240 mL of DMF is added 5.5 mL of 2-methyl-3-butyn-2-ol, 2.0 g of tetrakis(triphenylphosphine)palladium, 1.1 g of copper iodide and 5.6 mL of diisopropylamine. The mixture is stirred at 55° C. for 1 hr then cooled to room temperature and diluted with ethyl acetate (250 mL). Water (250 mL) is added and the layers were separated, the organic phase is washed with brine, dried over magnesium sulphate and volatiles are removed under reduced pressure. The crude mixture is then purified on silica gel using 50% hexane/ethyl acetate. The product is then recrystallized in THF and triturated in hot ethyl acetate/ether mixture to afford 5.4 g of [9-chloro-6-(3-hydroxy-3-methylbut-1-yn-1-yl)-1H-phenanthro[9,10-d]imidazol-2-yl]isophthalonitrile as a light yellow solid. 1H NMR (Acetone-d6): 8.93 (s, 2H), 8.53 (m, 2H), 8.36 (d, 2H), 8.01 (t, 1H), 7.78 (d, 2H), 4.53 (s, 1H), 1.61 (s, 6H).

reactant | 2-(9-bromo-6-chloro-1H-phenanthro[9,10-d]imidazol-2-yl)isophthalonitrile | 13 g | BrC=1C=C2C=3C=C(C=CC3C3=C(NC(=N3)C3=C(C#N)C=CC=C3C#N)C2=CC1)Cl | C23H10BrClN4
reactant | 2-methyl-3-butyn-2-ol | 5.5 mL | CC(C)(C#C)O | C5H8O
reactant | diisopropylamine | 5.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | Water | 250 mL | O | H2O
solvent | DMF | 240 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 2.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 1.1 g | [Cu](I)I
product | [9-chloro-6-(3-hydroxy-3-methylbut-1-yn-1-yl)-1H-phenanthro[9,10-d]imidazol-2-yl]isophthalonitrile | 5.4 g | ClC=1C=C2C=3C=C(C=CC3C3=C(NC(=N3)C3=C(C#N)C=CC=C3C#N)C2=CC1)C#CC(C)(C)O | C28H17ClN4O
